US04826990
1,1,1-Trifluoro-N-[3-[(2-phenyl-6-pyridinyl)methoxy]phenyl]methanesulfonamide
A solution of 2.0 g (0.00725 mol) of 3-[(2-phenyl-6-pyridinyl)methoxy]benzenamine and 2.0 g (0.02 mol) of triethylamine in 150 ml of metylene chloride is cooled to -70° C. A solution of 2.1 g (0.00745 mol) of trifluoromethanesulfonic anhydride in 50 ml of methylene chloride is added from a dropping funnel and the mixture is allowed to warm to room temperature. The solution is concentrated in vacuo, and the residue is dissolved in 250 ml of ethyl acetate/250 ml of acidic, dilute aqueous sodium chloride solution. The layers are separated and the aqueous phase is extracted with 250 ml of ethyl acetate. The combined ethyl acetate solution is washed with brine, dried over anhydrous magnesium sulfate and concentrated to obtain an oil, MS (CI) 409 (M+H), 541 (M+H for disubstituted product). Th oil is dissolved in 25 ml of methanol and stirred with 25 ml of Claisen's Alkali for 2 hours at room temperature. The reaction mixture is diluted with water, acidified, and extracted twice with ethyl acetate. The combined ethyl acetate solution is washed with brine, dried over anhydrous magnesium sulfate to obtain an oil, (0.5 g), MS (CI) 409 (M+H), which crystallizes. The crystals are triturated with ethyl acetate/pentane to obtain 0.17 g (2.1%) crystals, m.p. 115°-117° C.

reactant | 3-[(2-phenyl-6-pyridinyl)methoxy]benzenamine | 0.00725 mol, 2.0 g | C1(=CC=CC=C1)C1=NC(=CC=C1)COC=1C=C(C=CC1)N | C18H16N2O
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.00745 mol, 2.1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | metylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 25 ml | CO | CH4O
solvent | water | O | H2O
product | 1,1,1-Trifluoro-N-[3-[(2-phenyl-6-pyridinyl)methoxy]phenyl]methanesulfonamide | 0.17 g, 2.1% | FC(S(=O)(=O)NC1=CC(=CC=C1)OCC1=CC=CC(=N1)C1=CC=CC=C1)(F)F | C19H15F3N2O3S
